US07629344B2
Synthesis of 2-(3-(1H-imidazol-2-yl)-1H-pyrazolo[3,4-b]pyridin-1-yl)-1-(4-(3-(2-fluoroethoxy)-4-chlorophenyl)piperazin-1-yl)ethanone
To a vial containing 1-(3-(2-fluoroethoxy)-4-chlorophenyl)piperazine dihydrochloride (70 mg, 0.21 mmol) was added 2-(3-(1H-imidazol-2-yl)-1H-pyrazolo[3,4-b]pyridin-1-yl)acetic acid (51 mg, 0.21 mmol), HBTU (83 mg, 0.22 mmol), DMF (0.7 mL), and DIPEA (0.20 mL, 1.2 mmol). The reaction mixture was maintained at 20° C. for 24 h. The solution was diluted with EtOAc (30 mL) and washed with 1N HCl (2×10 mL) and sat. aq. NaCl (2×10 mL). The organic phase was dried over MgSO4 and concentrated in vacuo. The resultant residue was purified by preparative HPLC (20→95% gradient of MeCN—H2O with 0.1% TFA) and the pure fractions lyophilized to afford the indicated compound (20 mg, 20% yield): MS (ES) [M+H]+expected 484.2, found 484.4; 1H NMR (CDCl3, 400 MHz) d 9.94 (br s, 1H), 8.78 (dd, J=1.2, 8, 1H), 8.55 (dd, J=1.2, 4.6, 1H), 7.16-7.26 (m, 4H), 6.45-6.53 (m, 2H), 5.44 (s, 2H), 4.77 (dt, J=4.0, 46.8, 2H), 4.26 (dt, J=4.0, 26.8, 2H), 3.69-3.78 (m, 4H), 3.10-3.21 (m, 4H).

reactant | 1-(3-(2-fluoroethoxy)-4-chlorophenyl)piperazine dihydrochloride | 0.21 mmol, 70 mg | Cl.Cl.FCCOC=1C=C(C=CC1Cl)N1CCNCC1
reactant | 2-(3-(1H-imidazol-2-yl)-1H-pyrazolo[3,4-b]pyridin-1-yl)acetic acid | 0.21 mmol, 51 mg | N1C(=NC=C1)C1=NN(C2=NC=CC=C21)CC(=O)O | C11H9N5O2
reactant | HBTU | 0.22 mmol, 83 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.2 mmol, 0.20 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | 2-(3-(1H-imidazol-2-yl)-1H-pyrazolo[3,4-b]pyridin-1-yl)-1-(4-(3-(2-fluoroethoxy)-4-chlorophenyl)piperazin-1-yl)ethanone | 20 mg, 20% yield | N1C(=NC=C1)C1=NN(C2=NC=CC=C21)CC(=O)N2CCN(CC2)C2=CC(=C(C=C2)Cl)OCCF | C23H23ClFN7O2
